US07557110B2
Synthesis of 5-({trans-4-[(tert-butoxy)carbonylamino]cyclohexyl}amino)-7-[(tert-butoxy)-N-(4-ethoxyphenyl)carbonylamino]-6-methylpyrazolo[1,5-a]pyrimidine-3-carboxamide.
To a stirred solution of 5-({trans-4-[(tert-butoxy)carbonylamino]cyclohexyl}amino)-7-[(tert-butoxy)-N-(4-ethoxyphenyl)carbonylamino]-6-methylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid (1.25 g) in N,N-dimethylformamide (20 mL) were added ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (1.92 g), N-hydoroxybenzotriazole monohydrate (0.31 g), triethylamine (2.8 mL) and ammonia (5.0 mL, 2.0 mol/L in methanol). The resulting mixture was stirred at room temperature for 24 h. The reaction was quenched with saturated aqueous NaCl. After extraction with CH2Cl2, the combined organic layer was washed with water, dried over MgSO4, and the solvent was removed in vacuo to give the crude title compound (1.25 g) as a white solid. This crude product was used in the next reaction without further purification. ESI/MS data for this compound are shown below.

reactant | 5-({trans-4-[(tert-butoxy)carbonylamino]cyclohexyl}amino)-7-[(tert-butoxy)-N-(4-ethoxyphenyl)carbonylamino]-6-methylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 1.25 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)NC1=NC=2N(C(=C1C)N(C(=O)C1=CC=C(C=C1)OCC)OC(C)(C)C)N=CC2C(=O)O | C32H44N6O7
reactant | ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 1.92 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | ammonia | 2.0 mol/L, 5.0 mL | N | H3N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-({trans-4-[(tert-butoxy)carbonylamino]cyclohexyl}amino)-7-[(tert-butoxy)-N-(4-ethoxyphenyl)carbonylamino]-6-methylpyrazolo[1,5-a]pyrimidine-3-carboxamide | 1.25 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)NC1=NC=2N(C(=C1C)N(C(=O)C1=CC=C(C=C1)OCC)OC(C)(C)C)N=CC2C(=O)N | C32H45N7O6
